US05234946
6.0 g of N-(3-bromomethylphenyl)phthalimide [synthesized by brominating N-(m-tolyl)phthalimide with N-bromosuccinimide in carbon tetrachloride] was dissolved in 100 ml of dimethylformamide, and 3.82 g of (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride and 7.87 g of potassium carbonate were added. The mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate-water and the organic layer was separated, and the solvent was evaporated, and then the residue was washed with a small amount of ethyl ether to give 5.5 g (yield 72%) of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-phthalimidobenzylamine, m.p. 96°-98 ° C.

reactant | N-(3-bromomethylphenyl)phthalimide | 6.0 g | BrCC=1C=C(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H10BrNO2
reactant | (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | 3.82 g | Cl.C(C)NC\C=C\C#CC(C)(C)C
reactant | potassium carbonate | 7.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-phthalimidobenzylamine | 5.5 g, yield 72% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O)(C)C | C26H28N2O2
